US06921759B2
Step 5: Preparation of methyl 7-({[4-fluoro-2-(methylthio)benzyl]amino}-carbonyl)-8-hydroxy-1,6-naphthyridine-5-carboxylate
A slurry of dimethyl 8-hydroxy-1,6-naphthyridine-5,7-dicarboxylate (0.25 g, 0.953 mmol), 1-[4-fluoro-2-(methylthio)phenyl]methanamine (0.326 g, 1.91 mmol) and N,N,N-diisopropylethylamine (170 uL, 0.953 mmol) in toluene (4.0 mL) were heated in a pressure tube at 110 degrees C. for 18 hrs. The reaction was incomplete by LCMS analysis and solids remained undissolved. DMF (1 mL) was added to solubilize the reagents and the reaction was again heated in a pressure tube at 110 degrees C. for 18 hrs. Upon cooling to room temperature, the resulting solution was transferred to a round bottom flask and reduced to a small volume. The residue was partitioned between methylene chloride and water. The organic layer was dried with Na2SO4, filtered and reduced in vacuo. The material was crystallized with a small amount of chloroform. The solid was filtered and dried in vacuo to afford the desired compound as a white solid.

reactant | dimethyl 8-hydroxy-1,6-naphthyridine-5,7-dicarboxylate | 0.953 mmol, 0.25 g | OC1=C(N=C(C=2C=CC=NC12)C(=O)OC)C(=O)OC | C12H10N2O5
reactant | 1-[4-fluoro-2-(methylthio)phenyl]methanamine | 1.91 mmol, 0.326 g | FC1=CC(=C(C=C1)CN)SC | C8H10FNS
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 7-({[4-fluoro-2-(methylthio)benzyl]amino}-carbonyl)-8-hydroxy-1,6-naphthyridine-5-carboxylate | FC1=CC(=C(CNC(=O)C=2N=C(C=3C=CC=NC3C2O)C(=O)OC)C=C1)SC | C19H16FN3O4S
